US07786132B2
(ii) 5-Methyl-2-(methylthio)-4-(thiophen-2-yl)pyrimidine
3-(Dimethylamino)-2-methyl-1-(thiophen-2-yl)prop-2-en-1-one (0.2 g, 1.02 mmol) was dissolved in isopropyl alcohol (2mL) at room temperature. Thiourea (0.077 g, 1.02 mmol) followed by potassium tert-butoxide (1.102 mL of a 1.0 M solution in 2-methyl-2-propanol) was added to the mixture, which was then heated to reflux overnight. The reaction was cooled down to rt and iodomethane (0.126 mL, 2.04 mmol) was added to the reaction, which was stirred for an additional 6 h. The volatiles were removed in vacuo and the residue was dissolved in ethyl acetate, washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was then dried with sodium sulfate, concentrated in vacuo and purified by flash chromatography using a gradient of 5 to 30% ethyl acetate in hexanes. The pure fractions yielded a tan solid (0.15 g). MS (M+H)+ 223.

reactant | 3-(Dimethylamino)-2-methyl-1-(thiophen-2-yl)prop-2-en-1-one | 1.02 mmol, 0.2 g | CN(C=C(C(=O)C=1SC=CC1)C)C | C10H13NOS
reactant | Thiourea | 1.02 mmol, 0.077 g | NC(=S)N | CH4N2S
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | iodomethane | 2.04 mmol, 0.126 mL | IC | CH3I
solvent | isopropyl alcohol | 2mL | C(C)(C)O | C3H8O
solvent | 2-methyl-2-propanol | CC(C)(C)O | C4H10O
product | 5-Methyl-2-(methylthio)-4-(thiophen-2-yl)pyrimidine | 0.15 g | CC=1C(=NC(=NC1)SC)C=1SC=CC1 | C10H10N2S2
